US06891044B2
Preparation of 6-nitro-1-[2-(trimethyl-silanyl-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]1-H-benzoimidazol-2-yl}-1-H-indazole: 6-Nitro-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-(trimethyl-stannanyl)-1-H-indazole (7.50 g, 16.4 mmol), 3-iodo-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzimidazole (6.50 g, 17.4 mmol), and copper(I) iodide (313 mg, 1.64 mmol) were combined with dry THF (150 mL) in a flask purged with argon. Tetrakis(triphenylphosphine)palladium(0) was added, and the reaction stirred at reflux under argon for 23 h. The reaction was cooled and adsorbed directly onto silica gel (˜16 g). Purification by silica gel chromatography (4% to 15% ethyl acetate/hexanes) gave 7.28 g (82%) of 6-nitro-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole as a light yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.91 (d, 1H, J=9.0 Hz), 8.59 (d, 1H, J=1.8 Hz), 8.22 (dd, 1H, J=8.7, 1.8 Hz), 7.92-7.89 (m, 1H), 7.66-7.62 (m, 1H), 7.40-7.36 (m, 2H), 6.24 (s, 2H), 5.90 (s, 2H), 3.68-3.59 (m, 4H), 0.94 (t, 2H, J=8.1 Hz), 0.86 (t, 2H, J=8.1 Hz), −0.04 (s, 9H), −0.15 (s, 9H). Anal. (C26H37N5O4Si2) C, H, N. Calculated: C, 57.85; H, 6.91; N, 12.97. Found: C, 57.60; H, 6.81; N, 12.82.

reactant | 6-nitro-1 | C1=CC(=CC2=C1C=CS2(=O)=O)[N+](=O)[O-] | C8H5NO4S
reactant | 2-(trimethyl-silanyl-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]1-H-benzoimidazol-2-yl}-1-H-indazole | CC(COC(N1NC2=CC=CC=C2C1C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)[SiH3])(C)C | C26H40N4O2Si2
reactant | 6-Nitro-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-(trimethyl-stannanyl)-1-H-indazole | 16.4 mmol, 7.50 g | [N+](=O)([O-])C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)[Sn](C)(C)C
reactant | 3-iodo-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzimidazole | 17.4 mmol, 6.50 g | IN1CN(C2=C1C=CC=C2)COCC[Si](C)(C)C | C13H21IN2OSi
catalyst | copper(I) iodide | 1.64 mmol, 313 mg | [Cu]I
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 6-nitro-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole | 7.28 g, 82% | [N+](=O)([O-])C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C26H37N5O4Si2
